US06566362B2
18.9 g of N-bromosuccinimide was gradually added to a stirred solution of 17.4 g of 3-chloro-2,4-difluoroaniline in 150 cm3 of dry dimethylformamide, cooled to a temperature in the region of −20° C., while this temperature was maintained. After stirring for 1 hour, the temperature was brought to the region of 20° C. and then the mixture was concentrated under reduced pressure (5 kPa), at a temperature in the region of 60° C. The residue obtained was supplemented with 400 cm3 of hexane and 200 cm3 of water. The mixture was stirred and the aqueous phase decanted off. The latter was extracted three times with successively 200, 200, and 100 cm3 of hexane. The extracts were combined, washed twice with 200 cm3 of water and twice with 200 cm3 of a saturated aqueous sodium chloride solution. After drying over magnesium sulphate, the organic solution was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 19.2 g of 2-bromo-5-chloro-4,6-difluoroaniline was obtained in the form of a white solid, which melted at 62° C.

reactant | N-bromosuccinimide | 18.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-chloro-2,4-difluoroaniline | 17.4 g | ClC=1C(=C(N)C=CC1F)F | C6H4ClF2N
reactant | hexane | 400 cm3 | CCCCCC | C6H14
reactant | water | 200 cm3 | O | H2O
solvent | dimethylformamide | 150 cm3 | CN(C=O)C | C3H7NO
product | 2-bromo-5-chloro-4,6-difluoroaniline | 19.2 g | BrC1=C(N)C(=C(C(=C1)F)Cl)F | C6H3BrClF2N
